US05808062
4-Hydroxy-6-phenyl-3-[[[3-(2-phenylethoxy)phenyl]methyl]thio]-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (15 mL), 1N sodium hydroxide (5.31 mL), [3-(2-(phenylethoxy)phenyl]methyl p-toluenethiosulfonate (2.11 g, 5.31 mmol). m.p. 85°-90° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.96 (t, 2 H), 3.96 (s, 2 H), 4.09 (t, 2 H), 6.77 (m, 4 H), 7.19 (m, 5 H), 7.53 (m, 3 H), 7.77 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 5.31 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-[[[3-(2-phenylethoxy)phenyl]methyl]thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC1=CC(=CC=C1)OCCC1=CC=CC=C1 | C26H22O4S
